US07053256B2
Benzene/Cyclohexane Adsorption Isotherms
Pure component isotherms of benzene and cyclohexane were measured for H-USY(Si/Al=195), Na—Y(Si/Al=2.43), Ag—Y(Si/Al=2.43), and Pd—Y(Si/Al=2.43) at 120 and 180° C., shown in FIGS. 22–25. Isosteric heats of adsorption calculated using the Clausius-Clapeyron equation are listed in Table 16.

reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | Pd | [Pd] | Pd
solvent | cyclohexane | C1CCCCC1 | C6H12
product | Benzene Cyclohexane | C1=CC=CC=C1.C1CCCCC1 | InChI=1S/C6H12.C6H6/c2*1-2-4-6-5-3-1/h1-6H2;1-6H
